US05376687
1-iodopropane (0.89 ml) is added to a mixture of (+)-VII·HCl (1.01 g) and powdered potassium carbonate in 30 ml MeCN under nitrogen. The mixture is stirred at room temperature for 10 days during which two portions of 0.3 ml 1-iodopropane is added. After addition of diethyl ether, filtration and evaporation, the crude product purified by chromatography on alumina (diethyl ether/light petroleum, 1:4) to give 0.90 g of (+)-VIII·HCl and, on further elution, 0.23 g of (+)-5-fluoro-8-methoxy-2-propylaminotetralin hydrochloride, (+)-XI·HCl.

reactant | 1-iodopropane | 0.89 ml | ICCC | C3H7I
reactant | (+)-2-Amino-5-fluoro-8-methoxytetralin hydrochloride | 1.01 g | Cl.NC1CC2=C(C=CC(=C2CC1)F)OC
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 0.3 ml | ICCC | C3H7I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | MeCN | 30 ml | CC#N | C2H3N
product | (+)-5-Fluoro-8-methoxy-2-(dipropylamino)tetralin hydrochloride | 0.90 g, Yield 71% | Cl.FC1=C2CCC(CC2=C(C=C1)OC)N(CCC)CCC | InChI=1S/C17H26FNO.ClH/c1-4-10-19(11-5-2)13-6-7-14-15(12-13)17(20-3)9-8-16(14)18;/h8-9,13H,4-7,10-12H2,1-3H3;1H
